US09034866B2
Synthesis of tert-butyl 3-(2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo [c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate
Similar to as described in General Procedure E, tert-butyl 3-(10-bromo-2-carbamoyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate was reacted with 2-methylbut-3-yn-2-ol to give the titled compound.

reactant | tert-butyl 3-(10-bromo-2-carbamoyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(N)=O)C3CN(C3)C(=O)OC(C)(C)C)C1)F | C22H24BrFN4O3
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
product | tert-butyl 3-(2-carbamoyl-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo [c]imidazo[1,2-a]azepin-3-yl)azetidine-1-carboxylate | C(N)(=O)C=1N=C2N(C3CC(C4=C2C=C(C(=C4)F)C#CC(C)(C)O)C3)C1C1CN(C1)C(=O)OC(C)(C)C | C27H31FN4O4
